US04329347
6-(4-Phenylsulfonyl-butoxy)-carbostyril
Prepared analogous to Example 86 from 6-(4-phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril and 2,3-dichloro-5,6-dicyano-benzoquinone. Purification was carried out by column chromatography on silica gel (particle size: 0.2-0.5 mm) with chloroform/methanol/ethyl acetate=4/1/1.

reactant | 6-(4-phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO4S
reactant | 2,3-dichloro-5,6-dicyano-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
product | 6-(4-Phenylsulfonyl-butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H19NO4S
